US05276007
At -50° to -45° C. and over a period of 45 minutes, 4.3 g (0.25 mol) of gaseous ammonia was passed, while stirring, into a mixture of 23.3 g (0.1 mol) of 2,4-dichloro-6-trifluoromethoxypyrimidine in 150 ml of methyl tert-butyl ether. The mixture was stirred for 30 minutes at -50° C., 1 hour at -30° C. and for 1 hour at 25° C. The precipitate was suction filtered, washed with water and dried, giving 5.4 g (33.1% of theory) of 4-amino-2,4-dichloropyrimidine of melting point 270°-272° C. as byproduct. The filtrate was washed with water, dried, evaporated down partially under reduced pressure, and fractionally chromatographed with a 5:1 ligroin/ether mixture, the first fractions giving 3 g (12.81% of theory) of the starting material as a colorless oil and the last runnings 9 g (42% of theory) of the title compound as colorless crystals of melting point 55°-56° C. The conversion was 48.3%.

reactant | ammonia | 0.25 mol, 4.3 g | N | H3N
reactant | 2,4-dichloro-6-trifluoromethoxypyrimidine | 0.1 mol, 23.3 g | ClC1=NC(=CC(=N1)Cl)OC(F)(F)F | C5HCl2F3N2O
solvent | methyl tert-butyl ether | 150 ml | C(C)(C)(C)OC | C5H12O
product | 4-amino-2,4-dichloropyrimidine | 5.4 g, 33.1% | NC1(NC(=NC=C1)Cl)Cl | C4H5Cl2N3
